US04919707
Synthesis of 1-(3-methylbutoxy)methyl-3-nitrobenzene
Into a mixture of 500 ml (4.59 mol) of 3-methyl-1-butanol and 140 ml of dimethylformamide, 158.1 g (0.92 mol) of 3-chloromethylnitrobenzene was dissolved, and 78 g (1.39 mol) of potassium hydroxide pellets was added to the thus formed solution while cooling with water under a vigorous stirring. The temperature of the reaction mixture rised to 43° C. and then dropped slowly to room temperature. Thereafter, the reaction mixture was stirred for 7 hours at room temperature to complete the reaction.

reactant | 3-methyl-1-butanol | 4.59 mol, 500 ml | CC(CCO)C | C5H12O
reactant | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
reactant | 3-chloromethylnitrobenzene | 0.92 mol, 158.1 g | ClCC=1C=C(C=CC1)[N+](=O)[O-] | C7H6ClNO2
reactant | potassium hydroxide | 1.39 mol, 78 g | [OH-].[K+]
solvent | water | O | H2O
product | 1-(3-methylbutoxy)methyl-3-nitrobenzene | CC(CCOCC1=CC(=CC=C1)[N+](=O)[O-])C | C12H17NO3
